US06509366B2
To a solution of 7 ml (60 mmol) of isoamylamine in 3 ml of acetonitrile is added slowly a solution of 1-(2′-chlorobenzyl)-4,5-dimethyl-2-chloromethylimidazole in 10 ml of acetonitrile followed by added 1.5 g (10.8 mmol) of potassium carbonate powder. The reaction mixture is stirred overnight at room temperature under nitrogen and excess isoamylamine is evaporated in vacuo. The residue is dissolved in 50 ml of ethyl acetate and 25 ml of water. The ethyl acetate layer is separated, washed with brine, dried over anhydrous sodium sulfate and evaporated in vacuo. The crude product is purified by preparative TLC [silica gel, chloroform-methanol-ammonium hydroxide (90:10:1)] to give 1.39 g (46%) of N-[(4,5-dimethylimidazol-2-yl)methyl]-(3-methylbutyl)amine as a yellow oil. MS m/z (M++1) 320; 1H-NMR 400 MHz(δ, CDCl3): 0.81 (6H, d, J=6.4 Hz), 1.25 (2H, m), 1.51 (1H, m), 1.96 (3H, s), 2.17 (3H, s), 2.56 (2H, m), 3.68 (2H, s), 5.21 (2H, s), 6.39 (1H, d, J=7.6 Hz), 7.13 (1H, m), 7.19 (1H, m), 7.37 (1H, m) ppm.

reactant | isoamylamine | 60 mmol, 7 ml | C(CC(C)C)N | C5H13N
reactant | 1-(2′-chlorobenzyl)-4,5-dimethyl-2-chloromethylimidazole | ClC1=C(CN2C(=NC(=C2C)C)CCl)C=CC=C1 | C13H14Cl2N2
reactant | potassium carbonate | 10.8 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[(4,5-dimethylimidazol-2-yl)methyl]-(3-methylbutyl)amine | 1.39 g, 46% | CC=1N=C(NC1C)CNCCC(C)C | C11H21N3
